US08633200B2
Methyl 2-(2-bromo-7-hydroxy-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate
To a solution of 3-bromo-1H-pyrazol-5-amine (0.2 g, 1.235 mmol) and dimethyl 2-acetylsuccinate (0.697 g, 3.70 mmol) in xylene (10 mL) was added p-toluenesulfonic acid monohydrate (2 mg, 10.51 mmol). The reaction mixture was heated at reflux under a Dean-Stark trap for 8 h. The solid was filtered and washed with hexanes to afford the title compound (0.201 g, 54.2%). 1H NMR (400 MHz, MeOD) δ ppm 2.37 (3H, s), 3.65 (2H, s), 3.71 (3H, s), 6.20 (1H, s).

reactant | 3-bromo-1H-pyrazol-5-amine | 1.235 mmol, 0.2 g | BrC1=NNC(=C1)N | C3H4BrN3
reactant | dimethyl 2-acetylsuccinate | 3.70 mmol, 0.697 g | C(C)(=O)C(C(=O)OC)CC(=O)OC | C8H12O5
reactant | p-toluenesulfonic acid monohydrate | 10.51 mmol, 2 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 2-(2-bromo-7-hydroxy-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.201 g, 54.2% | BrC1=NN2C(N=C(C(=C2O)CC(=O)OC)C)=C1 | C10H10BrN3O3
